US06417203B1
Benzyl 2-[3-[(3-[(tert-Butoxycarbonyl)(methyl)amino]methylphenethyl)amino]-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate
tert-Butyl-N-[3-(2-aminoethyl)benzyl]-N-methylcarbamate (preparation 15) (0.5 g, 1.89 mmol), benzyl-2-[3,5-dichloro-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate (preparation 17) (0.6 g, 1.83 mmol) and triethylamine (0.5 ml, 3.66 mmol) in ethyl acetate (30 ml) were stirred at reflux for 24 hr. The resultant mixture was diluted with ethyl acetate (20 ml) and washed with water, sat aq brine, dried over MgSO4. Removal of the drying agent by filtration followed by evaporation of the solvent gave a red oil which was purified by chromatography (SiO2, gradient elution with 100% CH2Cl2; 99:1 CH2Cl2:MeOH; 98:2 CH2Cl2:MeOH) to give the desired product (0.76 g, 75%). 1H NMR (CDCl3) δ 1.45 (s, 9H), 2.20 (s, 3H), 2.80 (s, br, 3H), 2.90 (t, 2H), 3.70 (m, 2H), 4.20 (s, br, 2H), 4.80 (s, 2H), 5.20 (s, 2H), 6.10 (m, br, 1H), 7.10 (m, 3H), 7.25 (m, 1H), 7.35 (m, 5H). LRMS m/z=555.3 (M+1)+. Found C, 62.50, H, 6.34, N, 9.98%; C29H35N4O5Cl requires C, 62.75, H, 6.36, N, 10.09%.

reactant | tert-Butyl-N-[3-(2-aminoethyl)benzyl]-N-methylcarbamate | 1.89 mmol, 0.5 g | C(C)(C)(C)OC(N(C)CC1=CC(=CC=C1)CCN)=O | C15H24N2O2
reactant | benzyl-2-[3,5-dichloro-2-methyl-6-oxo-1(6H)-pyrazinyl]acetate | 1.83 mmol, 0.6 g | C(C1=CC=CC=C1)OC(CN1C(=C(N=C(C1=O)Cl)Cl)C)=O | C14H12Cl2N2O3
reactant | triethylamine | 3.66 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | Benzyl 2-[3-[(3-[(tert-Butoxycarbonyl)(methyl)amino]methylphenethyl)amino]-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate | 0.76 g, 75% | C(C)(C)(C)OC(=O)N(C)CC=1C=C(CCNC=2C(N(C(=C(N2)Cl)C)CC(=O)OCC2=CC=CC=C2)=O)C=CC1 | C29H35ClN4O5
